US03963701
2-[(p-Fluoro-α-phenylbenzyl)imino]piperidine hydrochloride
By the procedure of Example 1, only substituting respectively for 4-chlorobenzhydrylamine and O-methylcaprolactim, appropriate amounts of 4-fluorobenzhydrylamine and O-methylvalerolactim the title compound was obtained, m.p. 211°-213°C.

reactant | 4-chlorobenzhydrylamine | ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C13H12ClN
reactant | O-methylcaprolactim | COC=1CCCCCN1 | C7H13NO
reactant | 4-fluorobenzhydrylamine | FC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C13H12FN
reactant | O-methylvalerolactim | COC=1CCCCN1 | C6H11NO
product | 2-[(p-Fluoro-α-phenylbenzyl)imino]piperidine hydrochloride | Cl.FC1=CC=C(C(C2=CC=CC=C2)N=C2NCCCC2)C=C1 | InChI=1S/C18H19FN2.ClH/c19-16-11-9-15(10-12-16)18(14-6-2-1-3-7-14)21-17-8-4-5-13-20-17;/h1-3,6-7,9-12,18H,4-5,8,13H2,(H,20,21);1H
